US05624935
3-Amino-6-benzyloxy-2-methylaminopyridine
21.4 g of zinc were added to a solution of 8.50 of 6-benzyloxy-2-methylamino-3-nitropyridine (prepared as described in Preparation 92) in 360 ml of methanol, and then 8.5 ml of acetic acid were added dropwise. The resulting mixture was then stirred at room temperature for one hour. At the end of this time, the reaction mixture was filtered to remove insoluble material. The filtrate was freed from the solvent by distillation under reduced pressure, and the resulting residue was dissolved in ethyl acetate. The solution was washed with an aqueous solution of sodium hydrogencarbonate and with a saturated aqueous solution of sodium chloride, in that order. The organic layer was dried over anhydrous sodium sulfate and the solvent was removed by distillation under reduced pressure, to give 7.50 g of the title compound having Rf=0.63 (on silica gel thin layer chromatography using ethyl acetate as the developing solvent).

reactant | 6-benzyloxy-2-methylamino-3-nitropyridine | C(C1=CC=CC=C1)OC1=CC=C(C(=N1)NC)[N+](=O)[O-] | C13H13N3O3
reactant | acetic acid | 8.5 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 360 ml | CO | CH4O
catalyst | zinc | 21.4 g | [Zn] | Zn
product | 3-Amino-6-benzyloxy-2-methylaminopyridine | 7.50 g | NC=1C(=NC(=CC1)OCC1=CC=CC=C1)NC | C13H15N3O
